US05990105
0.196 g (0.0005 mol) of 4-(2,6-dibromopyridine-4-sulphonyl)-phenylamine was dissolved in 10 ml of dioxane, treated with 1.0 ml of sat. NH3 in methanol and stirred in an autoclave at 130° C. for 72 hrs. After removal of the solvent the residue was taken up in ethyl acetate, washed with sat. NH4Cl solution, water and sat. sodium chloride solution, dried over MgSO4 and the solvent was removed. The residue was chromatographed on silica gel with ethyl acetate/hexane 1:2 and 1:1. There was obtained 0.117 g (71%) of 4-(4-aminobenzenesulphonyl)-6-bromopyridin-2-ylamine as a yellowish, amorphous solid; m.p.: 204-205° C.

reactant | 4-(2,6-dibromopyridine-4-sulphonyl)-phenylamine | 0.0005 mol, 0.196 g | BrC1=NC(=CC(=C1)S(=O)(=O)C1=CC=C(C=C1)N)Br | C11H8Br2N2O2S
reactant | NH3 | 1.0 ml | N | H3N
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
product | 4-(4-aminobenzenesulphonyl)-6-bromopyridin-2-ylamine | 0.117 g, 71% | NC1=CC=C(C=C1)S(=O)(=O)C1=CC(=NC(=C1)Br)N | C11H10BrN3O2S
